US08492559B2
Stage 1: Ethyl 2-(6-nitro-1H-indol-1-yl)acetate
NaH (37 mmol, 2 equiv.) was taken up in DMF (25 ml) and cooled to 0° C. 6-Nitro-1H-indole (18.5 mmol, 1 equiv.) was added in portions, and the mixture was stirred for 1 h at 25° C. The reaction mixture was cooled to 0° C. again, ethyl bromoacetate (22.22 mmol, 1.2 equiv.) was added dropwise, and the mixture was stirred for 2 h at 25° C. The reaction mixture was then poured into ice-water and extracted with ethyl acetate (2×100 ml). The combined organic phases were washed with sat. NaCl solution (30 ml), dried over Na2SO4 and concentrated under reduced pressure. The product was crystallized from hexane and was used in the next step without being purified further. Yield: 57%

reactant | NaH | 37 mmol, 2 equiv. | [H-].[Na+]
reactant | 6-Nitro-1H-indole | 18.5 mmol, 1 equiv. | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | ethyl bromoacetate | 22.22 mmol, 1.2 equiv. | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | Ethyl 2-(6-nitro-1H-indol-1-yl)acetate | Yield: 57% | [N+](=O)([O-])C1=CC=C2C=CN(C2=C1)CC(=O)OCC | C12H12N2O4
